US06576644B2
4-[[(3-Chloro-4-methoxyphenyl)methyl]amino]-8-ethyl-3-(hydroxymethyl)-6-quinolinecarbonitrile
To a suspension of 100 mg (0.236 mmol) of 4-[[(3-chloro-4-methoxyphenyl)methyl]amino]-6-cyano-8-ethylquinoline-3-carboxylic acid ethyl ester in 2.8 mL anhydrous THF under nitrogen, was added 1.2 mL (5.0 eq) of 1M lithium tri-t-butoxyaluminohydride/THF. The resulting mixture was refluxed overnight with stirring. The reaction was quenched with 1 mL of MeOH and partitioned between 75 mL 1M NaOH and 100 mL CH2Cl2. The organic phase was washed with 1M NaOH (2×30 mL) and dried over MgSO4. Removal of the solvent under reduced pressure gave 75 mg (84% yield) of the title compound as a light yellow solid. The analytical sample was obtained by trituration in ether: mp: 188-189° C. LC: 3.15′; MH+: 382.

reactant | 4-[[(3-chloro-4-methoxyphenyl)methyl]amino]-6-cyano-8-ethylquinoline-3-carboxylic acid ethyl ester | 0.236 mmol, 100 mg | C(C)OC(=O)C=1C=NC2=C(C=C(C=C2C1NCC1=CC(=C(C=C1)OC)Cl)C#N)CC | C23H22ClN3O3
reactant | lithium tri-t-butoxyaluminohydride THF | 1M, 1.2 mL, 5.0 eq | C(C)(C)(C)O[AlH-](OC(C)(C)C)OC(C)(C)C.[Li+].C1CCOC1
solvent | THF | 2.8 mL | C1CCOC1 | C4H8O
product | 4-[[(3-Chloro-4-methoxyphenyl)methyl]amino]-8-ethyl-3-(hydroxymethyl)-6-quinolinecarbonitrile | 75 mg, 84% yield | ClC=1C=C(C=CC1OC)CNC1=C(C=NC2=C(C=C(C=C12)C#N)CC)CO | C21H20ClN3O2
